US07781478B2
To a solution of compound 2-(4-aminophenyl)-6-ethoxy-1-ethyl-1H-indole-3-carbonitrile (3.66 g, 12 mmol), prepared as described in example 1Gb, in 20 mL of THF is added Et3N (3.37 ml) and cyclopropanecarbonyl chloride (1.6 mL, 18 mmol). The mixture is stirred for 3 h at room temperature. Then water and ethyl acetate are added to the reaction mixture. The organic layer is separated, washed with brine (2×), dried over anhydrous Na2SO4, filtered and concentrated. The residue is recrystallized with ethyl acetate and hexane to yield 99% of cyclopropanecarboxylic acid [4-(3-cyano-6-ethoxy-1-ethyl-1H-indol-2-yl)-phenyl]-amide.

reactant | 2-(4-aminophenyl)-6-ethoxy-1-ethyl-1H-indole-3-carbonitrile | 12 mmol, 3.66 g | NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OCC)CC | C19H19N3O
reactant | Et3N | 3.37 ml | CCN(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 18 mmol, 1.6 mL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | water | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | cyclopropanecarboxylic acid [4-(3-cyano-6-ethoxy-1-ethyl-1H-indol-2-yl)-phenyl]-amide | 99% | C(#N)C1=C(N(C2=CC(=CC=C12)OCC)CC)C1=CC=C(C=C1)NC(=O)C1CC1 | C23H23N3O2
